US04719298
A solution of 143.19 g (1 mole) of quinaldine in 350 ml of chloroform was heated to 60° C. and 83 g (0.36 mole) of trichloroisocyanuric acid (min. 90% available chlorine) were added thereto in portions over 175 minutes. The mixture was stirred for another 45 minutes at 60° C. and then cooled. 700 ml of water and 200 ml of 50% potassium hydroxide were added with stirring until two clear layers have formed. The decanted aqueous phase was extracted twice with 150 ml of chloroform and the combined chloroform phases were covered with a layer of 350 ml of 10% HCl to thoroughly extract any 2-monochloromethyl-quinoline from the chloroform solution. The decanted chloroform phase was dried over MgSO4 and evaporated to dryness on a rotary evaporator to obtain 52 g (24.5%) of crude dichloromethyl-quinoline. After recrystallization from isopropanol, there were 16 g (7.5%) of product melting at 80° to 81° C. with a chlorine content of 33.02% (theory 33.4%). The acid aqueous phase was covered with 300 ml of ethyl acetate and the pH was adjusted to 3 with 50% sodium hydroxide. The mixture was well stirred and the decanted aqueous phase was extracted with 100 ml of ethyl acetate again. The combined acetic ester phases were dried over MgSO4 and evaporated to dryness to obtain 95 g (53.5%) of crystalline 2-chloromethylquinoline melting at 53° C. with a chlorine content of 19.87% (theory 19.96%). The aqueous phase was made alkaline with sodium hydroxide and was extracted with 200 ml of ethyl acetate. After drying and evaporating the organic phase, 23 g of quinaline were recovered. The yield of 2-chloromethyl-quinoline calculated for reacted quinaldine was 63.7%.

reactant | quinaldine | 1 mole, 143.19 g | N1=C(C)C=CC2=CC=CC=C12 | C10H9N
reactant | trichloroisocyanuric acid | 0.36 mole, 83 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | water | 700 ml | O | H2O
reactant | potassium hydroxide | 200 ml | [OH-].[K+]
reactant | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | dichloromethyl-quinoline | 52 g, 24.5% | ClC(Cl)C1=NC2=CC=CC=C2C=C1 | C10H7Cl2N
